Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
Ms. ___ is a ___ right handed woman with migraine headaches,
iron deficiency, and depression who is admitted for event
characterization with medication withdrawal. 

About ___ years ago, she was experiencing depressive symptoms 
and
was started on bupropion on an unknown "low dose" that was
subsequently increased to help control symptoms. She started
experiencing episodes where she felt "out of it" and "fuzzy" and
noticed that her hearing was waxing and waning. Had difficulty
getting words out with some slurred speech. Also had itchiness 
of
her face, which was "shaking." Body tends to shake like she has
tremors, and she is unable to describe them well. Notices that 
it
is sometimes her right arm that shakes, other times it is her
left foot. She has had episodes in the middle of work where she
would be standing and find herself walking into another area of
the store every time and not be doing it consciously. She says 
if
she is standing, she has always remained standing and never
fell/hit her head. Eye are also always open her per report.
Daughter has also noted a spell where she was sitting in front 
of
the television and blinking constantly while staring "off into
space." Episodes often associated with sensation of time lapse
and lasted between ___ minutes. She feels tired and exhausted
for the rest of the day after these episodes.  No set frequency
on when these episodes would occur or location. Never had
bowel/bladder incontinence. Bit tongue before, nonbloody, 
usually
in middle of tongue not sides of tongue. Not associated with 
life
stressors, depression, or anxiety symptoms.

Per pt, routine EEG in ___ showed "seizures," and she was
immediately taken off bupropion. She went to a second 
neurologist
for another opinion, and an ambulatory EEG was done. No
significant EEG changes were identified, and she was referred to
a psychiatrist. Starting ___, these events started to 
become
more noticable to others and occurred twice between ___. 
In
___, she presented to ___ with an event that
lasted for nearly 3 days. MRI at that time was negative, routine
EEG showed some abnormality and Dr. ___ neurologist)
started keppra 750mg BID. Since starting keppra, she has had no
improvement in her symptoms but the duration of the events are
shorter. Keppra was then increased to 1125mg BID. 

Ms. ___ suffered from migraines in her ___ and ___ that were
characterized as unilateral throbbing severe pain associated 
with
light sensitivity and severe nausea. They were better with prn
ibuprofen, never had migraines with neurologic sumptoms. 

She is currently having trouble sleeping. Denies loss of 
interest
or feelings of guilt. Low energy that she attributes to iron
deficiency anemia. Normal concentration and appetite, no
psychomotor retardation, no thoughts of suicide or homicide. She
does not feel depressed.

 
Past Medical History:
-migraine headaches
-depression
-prior knee surgery
-iron deficiency anemia s/p IV iron 
-bilateral TMJ dysfunction
-frequent UTIs as a child
-no history of febrile seizures, head trauma, meningitis,
encephalitis, intellectual disability

 
Social History:
___
Family History:
-denies family history of seizures, strokes; grandmother had
migraines 

 
Physical Exam:
General: sitting up in bed in NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive, speech is fluent with full sentences,
intact repetition, and intact verbal comprehension. No
dysarthria. Normal prosody. No evidence of hemineglect. No
left-right confusion.  Able to follow both midline and
appendicular commands.

- Cranial Nerves - PERRL 4->3 brisk. VF full to movement. EOMI,
no nystagmus. V1-V3 without deficits to light touch bilaterally.
No facial movement asymmetry. Hearing intact to finger rub
bilaterally.  Palate elevation symmetric. SCM/Trapezius strength
___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.  No exinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. 

 
Pertinent Results:
___ 10:05AM BLOOD Glucose-110* UreaN-14 Creat-0.9 Na-139 
K-3.6 Cl-101 HCO3-26 AnGap-16
___ 04:50AM BLOOD WBC-6.2 RBC-3.83* Hgb-11.4 Hct-33.9* 
MCV-89 MCH-29.8 MCHC-33.6 RDW-14.0 RDWSD-44.5 Plt ___
___ 04:50AM BLOOD calTIBC-250* VitB12-321 Ferritn-878* 
TRF-192*

Ictal SPECT:  No abnormal activity to identify a seizure focus.
___ EEG: This is an abnormal continuous EMU monitoring study 
because of 
R>L bilateral independent temporal epileptiform discharges 
consistent with potential epileptogenic foci over these regions. 
Background generally captures an alpha rhythm which, at times, 
is high in amplitude and does contain some sharp features. 

There are four button pushes for clinical events where the 
patient 
appears to stare off but is unresponsive. No change from the 
background 
telemetry during any of the events. There is no clear change in 
the 
background at these times and there are no definite 
electrographic seizures. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ woman with migraines who presents for 
seizure characterization and medication withdrawal. Typical 
spells start with her feeling "out of it," and she has 
difficulty getting words out with some slurred speech. Body 
tends to shake, eyes open, lasts between ___ minutes. Home AED: 
1125mg keppra po BID. EEG showing some sharp wave discharges in 
bilateral temporal regions both awake and asleep but did not 
correlate with events. Tapered off keppra, still did not see 
correlation between discharges. Ictal SPECT done with one of her 
events did not indicate epileptogenic focus. Unable to obtain 
interictal SPECT during this hospitalization as she had an event 
prior to scheduled time. She will obtain this test in addition 
to a seizure protocol MRI as an outpatient. She was started on 
oxcarbazepine 600mg BID on ___ with instructions to titrate 
up to 900mg BID in one week. On discharge, she was stable, 
voiding, afebrile, and ambulating.
 
Discharge Medications:
1. Oxcarbazepine 600 mg PO BID 
RX *oxcarbazepine 300 mg 2 tablet(s) by mouth twice daily Disp 
#*84 Tablet Refills:*3
2. Lorazepam 1 mg PO ONCE MRI Duration: 1 Dose 
Please take this 15rmin prior to MRI if feeling 
anxious/claustraphobic 
RX *lorazepam [Ativan] 1 mg 1 tablet(s) by mouth once Disp #*1 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Possible seizures

 
Discharge Condition:
stable, afebrile, ambulating, voiding, taking po

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the epilepsy service at ___ for seizure 
characterization and medication titration with continuous video 
EEG. During this time, we have tapered off your Keppra and have 
started you on oxcarbazepine 600mg twice daily. You will need to 
increase the dose of oxcarbazepine to 900mg twice daily on 
___. You will need to get an outpatient interictal SPECT on 
___ at 10:30am. Later that day, you will get a 
seizure protocol MRI on ___ at 2:40pm. If you feel 
claustraphobic, please take the 1mg ativan prescribed for you 
15min prior to your MRI scan. Do not drive after you take this 
medication.

Please be sure to follow-up with Dr. ___ on ___ at 
11:30am to go over your results.

It was a pleasure taking care of you while you were in the 
hospital. We wish you the best!

Sincerely,
Your ___ team
 
Followup Instructions:
___